US05250548
2-{Butylamino}pyridine-3-carbonitrile
2-Chloronicotinitrile (1.30 g, 9.60 mmol) was refluxed with 3 mL of n-butylamine and 10 mL of isopropyl alcohol overnight. The solvents were removed in vacuo and the residue obtained chromatographed on silica gel eluting with 2:1 hexane/ethyl acetate to give 1.6 g of the title compound.

reactant | 2-Chloronicotinitrile | 9.60 mmol, 1.30 g | C1=CC(=C(N=C1)Cl)C#N | C6H3ClN2
reactant | n-butylamine | 3 mL | C(CCC)N | C4H11N
solvent | isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
product | 2-{Butylamino}pyridine-3-carbonitrile | 1.6 g | C(CCC)NC1=NC=CC=C1C#N | C10H13N3
